US09382241B2
Step 1: 6-iodo-N-(4-pyridyl)quinazolin-4-amine 52-A
To a vial was added 4-chloro-6-iodo-quinazoline (100 mg; 0.34 mmol, commercially available), pyridin-4-amine (3 equiv., 1.03 mmol, 97.19 mg, commercially available), and 2 drops of 4M HCl/dioxane. The reaction vial was heated until solids melted. LCMS of resultant solution showed clean product formation. Upon cooling the product re-solidified. The solid was suspended in dichloromethane:water, and collected by filtration. 95 mg of 6-iodo-N-(4-pyridyl)quinazolin-4-amine was recovered as an orange solid, which was carried on directly to the Suzuki step. LCMS M/Z (M+H)=350.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | pyridin-4-amine | N1=CC=C(C=C1)N | C5H6N2
catalyst | HCl dioxane | 4M, 2 drops | Cl.O1CCOCC1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-iodo-N-(4-pyridyl)quinazolin-4-amine | IC=1C=C2C(=NC=NC2=CC1)NC1=CC=NC=C1 | C13H9IN4
